US05358938
Preparation of trans-2-(3-Methoxy-4-propoxy-5-hydroxyethylaminophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrofuran (compound 4, FIG. 4)
A mixture of trans-2-(3-methoxy-4-propoxy-5-aminophenyl)-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran (20 mg. 0.048 mmol), potassium carbonate (0.4 g), and 2-iodoethanol (82.47 mg, 0.48 mmol) was suspended in 2 mL of DMF. The reaction mixture was stirred at room temperature for 20 hours, quenched with water and extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered and evaporated in vacuo to an oil which was purified by column using 3:1 hexane/ethyl acetate as solvent (12.8 mg, 57.9%). 1H NMR (CDCl3): 1.02 (t, 3H), 1.79 (m, 2H), 1.99 (m, 2H), 2.43 (m, 2H), 3.33 (m, 2H), 3.81 (m, 2H), 3.82 (s, 3H), 3.83 (s, 3H), 3.88 (s, 6H), 3.90 (t, 2H), 5.18 (m, 2H), 6.40 (d, 2 H), 6.61 (s, 2H).

reactant | trans-2-(3-methoxy-4-propoxy-5-aminophenyl)-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran | 0.048 mmol, 20 mg | COC=1C=C(C=C(C1OCCC)N)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C23H31NO6
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodoethanol | 0.48 mmol, 82.47 mg | ICCO | C2H5IO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | trans-2-(3-Methoxy-4-propoxy-5-hydroxyethylaminophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrofuran | COC=1C=C(C=C(C1OCCC)NCCO)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C25H35NO7
